US07767705B2
2-bromo-6-fluorobenzaldehyde
1-Bromo-3-fluorobenzene (17.3 g, 0.1 M) was added over 5 minutes to a solution of lithium diisopropylamide (prepared from the addition of 40 mL of 2.5 N butyllithium in hexanes to 11.5 g of 0.1 M diisopropylamine) in THF at a temperature between −70 and −75° C. The mixture was stirred cold for 1 hour after which DMF (8 mL) was added over 10 minutes. The mixture was stirred cold for an additional 40 minutes followed by the addition of acetic acid (26 g). The mixture was allowed to warm to ambient temperature, transferred into a mixture of 200 mL methyl tert-butyl ether, 200 mL water and 150 mL hydrochloric acid (˜4 N). The organic layer was separated and concentrated under reduced pressure to provide the title compound. 1H-NMR (CDCl3) δ 10.36 (s, 1H), 7.49 (dt, 1H), 7.40 (dt, 1H), 7.15 (tdd, 1H).

reactant | 1-Bromo-3-fluorobenzene | 0.1 M, 17.3 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | 2.5 N, 40 mL | C(CCC)[Li]
reactant | diisopropylamine | 0.1 M, 11.5 g | C(C)(C)NC(C)C | C6H15N
reactant | hydrochloric acid | ˜4 N, 150 mL | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | methyl tert-butyl ether | 200 mL | C(C)(C)(C)OC | C5H12O
solvent | acetic acid | 26 g | C(C)(=O)O | C2H4O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-bromo-6-fluorobenzaldehyde | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
